US04727081
(b) 3-[3-[(3-Methylpyrrolidin-1-yl)-methyl]phenoxy]propanamine
28.7 g (0.15 mol) of 3-[(3-methylpyrrolidin-1-yl) methyl]phenol are heated under reflux together with 100 ml of acrylonitrile and 1.5 ml of 40% methanolic benzyltrimethylammonium hydroxide solution for 18 hours. The excess acrylonitrile is evaporated off under vacuum and the residue is taken up with ether, washed with 5% NaOH and reduced to the amine by reaction with 7.6 g (0.2 mol) of LiAlH4 in a manner analogous to Example 64 b. 14.9 g (40% of theoretical) of a pale yellow oil is obtained in a sufficiently pure form for subsequent reactions.

reactant | 3-[(3-methylpyrrolidin-1-yl) methyl]phenol | 0.15 mol, 28.7 g | CC1CN(CC1)CC=1C=C(C=CC1)O | C12H17NO
reactant | benzyltrimethylammonium hydroxide | 1.5 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | LiAlH4 | 0.2 mol, 7.6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | acrylonitrile | 100 ml | C(C=C)#N | C3H3N
product | 3-[3-[(3-Methylpyrrolidin-1-yl)-methyl]phenoxy]propanamine | CC1CN(CC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
